US07476399B2
(R)—N-(1-hydroxy-4-methylpentan-2-yl)-3,4-dimethylbenzamide was prepared in a similar manner as described in example 4 using 3,4-dimethylbenzoic acid and with (R)-aminoleucinol. Yield: 75%. MS (M+H, 250.3).

reactant | 3,4-dimethylbenzoic acid | CC=1C=C(C(=O)O)C=CC1C | C9H10O2
reactant | (R)-aminoleucinol | NN[C@H](CC(C)C)CO | C6H16N2O
product | (R)—N-(1-hydroxy-4-methylpentan-2-yl)-3,4-dimethylbenzamide | Yield: 75% | OC[C@@H](CC(C)C)NC(C1=CC(=C(C=C1)C)C)=O | C15H23NO2
